US08809371B2
Cesium carbonate (75 mg) and pyrazole (12 mg) were added to an N,N-dimethylacetamide (5 ml) solution containing 6-chloro-5-methylpyridin-3-amine (12 mg), followed by reflux for 3.5 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=1:0 to 10:1), and a light yellow solid of 3-methyl-5-nitro-2-(1H-pyrazol-1-yl)pyridine (12 mg) was obtained.

reactant | Cesium carbonate | 75 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pyrazole | 12 mg | N1N=CC=C1 | C3H4N2
reactant | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
reactant | 6-chloro-5-methylpyridin-3-amine | 12 mg | ClC1=C(C=C(C=N1)N)C | C6H7ClN2
reactant | Water | O | H2O
product | 3-methyl-5-nitro-2-(1H-pyrazol-1-yl)pyridine | 12 mg | CC=1C(=NC=C(C1)[N+](=O)[O-])N1N=CC=C1 | C9H8N4O2
